US07829584B2
3-cyano-6-chloro-2-[3-(tert-butoxycarbonyl)amino-benzo[d]isoxazol-5-ylmethyl]aminocarbonylmethyl-pyridine 1-oxide
A mixture of 6-chloro-3-cyano-2-(4-nitro-phenoxycarbonylmethyl)-pyridine 1-oxide (83.6 mg, 0.25 mmol), as prepared in Example 6f, and (5-aminomethyl-benzo[d]isoxazol-3-yl)-carbamic acid tert-butyl ester (78.8 mg, 0.3 mmol) in CDCl3 (3 mL) was stirred in an ice-water bath which was allowed to rise to rt overnight. A lot of precipitate formed. TLC showed the disappearance of 6-chloro-3-cyano-2-(4-nitro-phenoxycarbonylmethyl)-pyridine 1-oxide. A small amount of methanol was added to dissolve the solid. The solution was applied onto a prep TLC (2 mm, 20×20 cm) and developed with EtOAc/Hexane (4:1). A white solid was obtained (103 mg). LC/MS (ESI) (M+H+ 458.1)

reactant | 6-chloro-3-cyano-2-(4-nitro-phenoxycarbonylmethyl)-pyridine 1-oxide | 0.25 mmol, 83.6 mg | ClC1=CC=C(C(=[N+]1[O-])CC(=O)OC1=CC=C(C=C1)[N+](=O)[O-])C#N | C14H8ClN3O5
reactant | (5-aminomethyl-benzo[d]isoxazol-3-yl)-carbamic acid tert-butyl ester | 0.3 mmol, 78.8 mg | C(C)(C)(C)OC(NC1=NOC2=C1C=C(C=C2)CN)=O | C13H17N3O3
reactant | methanol | CO | CH4O
solvent | EtOAc Hexane | CCOC(=O)C.CCCCCC
product | 3-cyano-6-chloro-2-[3-(tert-butoxycarbonyl)amino-benzo[d]isoxazol-5-ylmethyl]aminocarbonylmethyl-pyridine 1-oxide | C(#N)C=1C(=[N+](C(=CC1)Cl)[O-])CC(=O)NCC=1C=CC2=C(C(=NO2)NC(=O)OC(C)(C)C)C1 | C21H20ClN5O5
